US05905149
To a solution of 5-t-butoxycarbonylamino-2-oxindole (630 mg, 2.5 mmol) and 8-hydroxyquinoline-5-carbaldehyde (450 mg, 2.6 mmol) in absolute alcohol was added piperidine (0.26 g, 2.6 mmol). The reaction was carried out at 80° C. for 3 h. The solvent was evaporated and the residue was purified by silica gel chromatography (eluant cyclohexane/ethylacetate 2:3) thus giving 800 mg of 5-(t-butoxycarbonylamino)-3-(8-hydroxyquinol-5-ylmethylen)-2-oxindole.

reactant | 5-t-butoxycarbonylamino-2-oxindole | 2.5 mmol, 630 mg | C(C)(C)(C)OC(=O)NC=1C=C2CC(NC2=CC1)=O | C13H16N2O3
reactant | 8-hydroxyquinoline-5-carbaldehyde | 2.6 mmol, 450 mg | OC1=CC=C(C=2C=CC=NC12)C=O | C10H7NO2
reactant | piperidine | 2.6 mmol, 0.26 g | N1CCCCC1 | C5H11N
product | 5-(t-butoxycarbonylamino)-3-(8-hydroxyquinol-5-ylmethylen)-2-oxindole | 800 mg | C(C)(C)(C)OC(=O)NC=1C=C2C(C(NC2=CC1)=O)=CC1=C2C=CC=NC2=C(C=C1)O | C23H21N3O4
